US05618811
B. 4-(2-Methylphenyl)cyclohexanone
A solution of 4-(2-methylphenyl)-4-hydroxycyclohexanone ethylene ketal from the preceding step in 800 mL dioxane was treated with 16 mL concentrated hydrochloric acid and 30 grams 10% palladium-on-carbon under 35 p.s.i. hydrogen for 24 hours, then filtered through Celite® to remove the catalyst. The filtrate was treated with 230 mL water and stirred at room temperature for 48 hours. The solution was evaporated, the pH adjusted to 8 with saturated aqueous sodium bicarbonate solution, and extracted with methylene chloride. The organic layer was dried over sodium sulfate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/hexane as eluant to afford 33.3 grams (35%) of an oil.

reactant | 4-(2-methylphenyl)-4-hydroxycyclohexanone ethylene ketal | C1COC2(CCC(CC2)(O)C2=C(C=CC=C2)C)O1 | C15H20O3
reactant | hydrochloric acid | 16 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 800 mL | O1CCOCC1 | C4H8O2
catalyst | palladium-on-carbon | 30 grams | [Pd] | Pd
product | 4-(2-Methylphenyl)cyclohexanone | 33.3 grams, 35% | CC1=C(C=CC=C1)C1CCC(CC1)=O | C13H16O
